US07067517B2
4-Hydroxy-piperidine-1-carboxylic acid 5-(5-trifluoromethyl-pyridin-2-yloxy)-pyridin-2-yl ester
A solution of 5-(5-trifluoromethyl-pyridin-2-yloxy)-pyridin-2-ol (180 mg, 0.70 mmol), 3-[4-(tert-butyl-dimethyl-silanyloxy)-piperidine-1-carbonyl]-1-methyl-3H-imidazol-1-ium iodide (317 mg, 0.70 mmol) and triethylamine (98 μL) in acetonitrile (10 mL) was stirred at room temperature overnight. The solvent was evaporated in vacuo. The residue was redissolved in some dichloromethane, chloromethane, filtered over a short pad of silicagel and washed with ethyl acetate:heptane 50:50. The solvent was evaporated in vacuo and the residue was dissolved in 3.2N HCl in ether (10 mL). After stirring for 1 hour at room temperature the solvent was evaporated in vacuo and the residue was dissolved in dichloromethane. Triethylamine (0.5 mL) was added and the solution was extracted with water. The organic layer was dried over sodium sulphate, filtered and evaporated in vacuo to yield the title compound (174 mg, 65% yield) as a thick oil.

reactant | 5-(5-trifluoromethyl-pyridin-2-yloxy)-pyridin-2-ol | 0.70 mmol, 180 mg | FC(C=1C=CC(=NC1)OC=1C=CC(=NC1)O)(F)F | C11H7F3N2O2
reactant | 3-[4-(tert-butyl-dimethyl-silanyloxy)-piperidine-1-carbonyl]-1-methyl-3H-imidazol-1-ium iodide | 0.70 mmol, 317 mg | [I-].C(C)(C)(C)[Si](OC1CCN(CC1)C(=O)N1C=[N+](C=C1)C)(C)C
reactant | triethylamine | 98 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-Hydroxy-piperidine-1-carboxylic acid 5-(5-trifluoromethyl-pyridin-2-yloxy)-pyridin-2-yl ester | 174 mg, 65% yield | FC(C=1C=CC(=NC1)OC=1C=CC(=NC1)OC(=O)N1CCC(CC1)O)(F)F | C17H16F3N3O4
